US08809525B2
6-(3-Chloro-5-ethenylphenyl)-5-phenyl-1,2,4-triazin-3-amine (54 mg, 11%) was prepared from 3-(3-amino-5-phenyl-1,2,4-triazin-6-yl)-5-chlorophenyl trifluoromethanesulfonate (0.65 g, 1.51 mmol and tri-n-butyl(vinyl) tin (0.57 g, 1.81 mmol) according to the general procedure for Example 4.

reactant | 3-(3-amino-5-phenyl-1,2,4-triazin-6-yl)-5-chlorophenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=CC(=C1)Cl)C1=C(N=C(N=N1)N)C1=CC=CC=C1)(F)F | C16H10ClF3N4O3S
reactant | tri-n-butyl(vinyl) tin | 1.81 mmol, 0.57 g | C(CCC)[Sn](C=C)(CCCC)CCCC
product | 6-(3-Chloro-5-ethenylphenyl)-5-phenyl-1,2,4-triazin-3-amine | 54 mg, 11% | ClC=1C=C(C=C(C1)C=C)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C17H13ClN4
